US04450167
1.86 g of phenetidine were added to a suspension of 3 g of 4-hydroxy-3-quinoline-carboxylic acid chloride (described in French Pat. No. 2,340,735) in 40 ml of anhydrous pyridine and the mixture was stirred for 16 hours. 50 ml of aqueous 2 N hydrochloric acid solution were added to the mixture which was stirred for one hour and then was filtered. The recovered product was washed with water, dried at 180° C. under reduced pressure and was crystallized from 30 ml of acetic acid and then 10 ml of dimethylformamide to obtain 2.1 g of 4-hydroxy-N-(4-ethoxyphenyl)-3-quinoline-carboxamide in the form of crystals melting at 288° C.

reactant | phenetidine | 1.86 g | CCOC1=CC=C(C=C1)N | C8H11NO
reactant | 4-hydroxy-3-quinoline-carboxylic acid chloride | 3 g | OC1=C(C=NC2=CC=CC=C12)C(=O)Cl | C10H6ClNO2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 4-hydroxy-N-(4-ethoxyphenyl)-3-quinoline-carboxamide | 2.1 g | OC1=C(C=NC2=CC=CC=C12)C(=O)NC1=CC=C(C=C1)OCC | C18H16N2O3
